US05506351
2,6-Diamino-9-[2-O-(imidazol-1-yl)butyl-β-D-ribofuranosyl] purine
2,6-Diamino-(9-β-D-ribofuranosyl)purine (5.0 g) in DMF (400 ml) was treated with sodium hydride (0.78 g). After stirring an additional 30 min a further portion of sodium hydride (2.6 g) was added immediately followed by bromobutylimidazole (9.9 g) in DMF (25 ml). The reaction mixture was stirred overnight and quenched with H2O. The reaction mixture was filtered through celite and evaporated to yield an oily product. TLC showed a mixture of isomers.

reactant | 2,6-Diamino-(9-β-D-ribofuranosyl)purine | 5.0 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)N | C10H14N6O4
reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | bromobutylimidazole | 9.9 g | BrCCCCC=1NC=CN1 | C7H11BrN2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2,6-Diamino-9-[2-O-(imidazol-1-yl)butyl-β-D-ribofuranosyl] purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OCCCCN2C=NC=C2)[C@H](O)[C@H](O1)CO)N | C17H24N8O4
